US05006150
2,2,6,6-Tetramethyl-4-(4-chloro-2-nitrobenzoyl)-2H-pyran.3,5-(4H,6H)-dione
To a mixture of 2,2,6,6.tetramethyl.5.(4.chloro.2.nitrobenzoyloxy)-3,6-dihydro-2H-pyran-3-one (5.97 g, 16.9 mmol) and triethylamine (4,70 ml, 33.8 mmol) in 30 ml of acetonitrile is added acetone cyanohydrin (0.5 ml), and the mixture is stirred at RT for 24 hours. The reaction mixture is diluted with ether and extracted with aqueous 5% K2CO3. The aqueous layer is made acidic with conc. HCl and extracted with ether. The combined organic layers are dried and evaporated to give light yellow crystals, which are purified to yield 2,2,6,6.tetramethyl-4-(4-chloro-2-nitrobenzoyl) -2H-pyran-3,5-(4H,6H)-dione (compound 8, Table A).

reactant | 3,6-dihydro-2H-pyran-3-one | 16.9 mmol, 5.97 g | O1CC(C=CC1)=O | C5H6O2
reactant | triethylamine | 33.8 mmol, 4,70 ml | C(C)N(CC)CC | C6H15N
reactant | acetone cyanohydrin | 0.5 ml | CC(C#N)(O)C | C4H7NO
reactant | tetramethyl-4-(4-chloro-2-nitrobenzoyl) -2H-pyran-3,5-(4H,6H)-dione | CC1(C(C(C(C(O1)(C)C)=O)C(C1=C(C=C(C=C1)Cl)[N+](=O)[O-])=O)=O)C | C16H16ClNO6
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
solvent | ether | CCOCC | C4H10O
product | 2,2,6,6-Tetramethyl-4-(4-chloro-2-nitrobenzoyl)-2H-pyran | CC1(OC(C=C(C1)C(C1=C(C=C(C=C1)Cl)[N+](=O)[O-])=O)(C)C)C | C16H18ClNO4
